* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\TJB+FETs\COMB01bop.asc
Rb B 0 {Rb}
Rc N002 0 {Rc}
Vcc cc 0 {Vcc}
Rs cc S {Rs}
Q1 N002 B D 0 TBJ
J1 D N001 S JFET
R2 cc N001 {R2}
R1 N001 0 {R1}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.jft
.op
.model JFET pjf(Beta=5m Vto=-1)
.param Vcc=20 Rb=680k Rc=220 Rs=120 R1=10k R2=3.3k
.model TBJ PNP(IS=10F BF=150)
.backanno
.end
